US06133258
The reaction procedure of Example 11 was followed except that 383 mg of 2-anilino-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 14 mg of lithium hydride and 0.15 ml of isopropyl iodide were used. As a result, 144 mg of 3-isopropyl-2-phenylimino-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained.

reactant | 2-anilino-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 383 mg | N(C1=CC=CC=C1)C=1SC2=C(C(N1)=O)C=CC=N2 | C13H9N3OS
reactant | lithium hydride | 14 mg | [H-].[Li+]
reactant | isopropyl iodide | 0.15 ml | C(C)(C)I | C3H7I
product | 3-isopropyl-2-phenylimino-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 144 mg | C(C)(C)N1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=CC=C2 | C16H15N3OS
